* nmos characteristics

* include the model files
.include ./t14y_tsmc_025_level3.txt
  
* netlist
* m_instance_name drain_node gate_node source_node bulk_substrate_node model_name L=length W=width
*m1 vdd in vss 0 cmosn l=1u w=0.5u 
m1 d g 0 0 cmosn l=1u w=0.5u 

* power sources excitation etc.
* v_instance_name posive_node negative_node value
v_dd d 0 3.3 
*v_0 vss 0 0
v_in g 0 3.3 

.control
* Sweep v_gs
dc v_in 0 3.3 0.1 v_dd 0 3.3 1 
setplot dc1
plot -v_dd#branch

* Sweep v_ds
dc v_dd 0 3.3 0.1 v_in 0 3.3 1
setplot dc2
plot -v_dd#branch

.endc

