* nmos characteristics

* include the model file
.include ./t14y_tsmc_025_level3.txt
  
* netlist
* m_instance_name drain_node gate_node source_node bulk_substrate_node model_name L=length W=width
m1 vdd in 0 0 cmosn l=1u w=0.5u 

* power sources
* v_instance_name posive_node negetive_node value
v_dd vdd 0 3.3 
v_in in 0 3.3 

.control
  foreach vto_new 0.2 0.6 1 1.5
    dc v_in 0 3.3 0.1
    altermod m1 VTO = $vto_new
    run
  end
  
  plot (-dc1.v_dd#branch) (-dc2.v_dd#branch) (-dc3.v_dd#branch) (-dc4.v_dd#branch)
.endc

.control
  foreach vto_new 0.2 0.6 1 1.5
    dc v_dd 0 3.3 0.1
    altermod m1 VTO = $vto_new
    run
  end
  
  plot (-dc5.v_dd#branch) (-dc6.v_dd#branch) (-dc7.v_dd#branch) (-dc8.v_dd#branch)
.endc

