* nmos characteristics

* include the model files
.include ./t14y_tsmc_025_level3.txt
  
* MOSFET
* m_instance_name drain_node gate_node source_node bulk_substrate_node model_name L=length W=width
m1 out in 0 0 cmosn l=10u w=10u
vmos out drain 0
* RESISTOR
rd vdd drain 10k
* CAP dummy voltage
vcap drain vcap_node 0
* CAPACITOR
c1 vcap_node 0 1u


* POWER SOURCES
* v_instance_name posive_node negetive_node value
v_dd vdd 0 10

* V n+ n- PULSE(V1 V2 TD TR TF PW PER)
v_in in 0 PULSE(0 10 1m 2p 2p 50m 100m)

.control
  dc v_in 0 10 0.1
  tran 1m 400m
  plot (in) 
  plot (-vcap#branch)
  plot (-vmos#branch)
  plot (-v_dd#branch)
  
*   meas TRAN v_static MAX (-v_dd#branch)
  let i_dis = (-vmos#branch) - (-v_dd#branch)
  plot i_dis
.endc


